US07196090B2
N-Benzyl-2,6-difluoro-3,5-dimethoxyaniline (6.0 g, 21.5 mmol) was dissolved in THF (40 mL) and the solution hydrogenated over 20% palladium hydroxide on carbon catalyst (0.6 g) at 20° C.–25° C. 48–50 psi hydrogen pressure for 16 hours. The mixture was filtered, the catalyst washed with THF (2×15 mL) and the combined filtrates concentrated to a solid. This was recrystallized from heptane (10 mL) and toluene (4.5 mL). The mixture was cooled to −10° C. before filtering. The crystals were washed with heptane (2×10 ML) and vacuum dried at 35° C. to give 2,6-difluoro-3,5-dimethoxyaniline as off-white needles (3.85 g, 20.4 mmol). mp: 78° C.–79° C.

reactant | N-Benzyl-2,6-difluoro-3,5-dimethoxyaniline | 21.5 mmol, 6.0 g | C(C1=CC=CC=C1)NC1=C(C(=CC(=C1F)OC)OC)F | C15H15F2NO2
reactant | hydrogen | [H][H] | H2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | palladium hydroxide on carbon | 0.6 g | [OH-].[OH-].[Pd+2]
product | 2,6-difluoro-3,5-dimethoxyaniline | 20.4 mmol, 3.85 g | FC1=C(N)C(=C(C=C1OC)OC)F | C8H9F2NO2
